************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: MULT
* View Name:     schematic
* Netlisted on:  Mar  8 16:14:55 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    MULT
* View Name:    schematic
************************************************************************

.SUBCKT MULT A0 A1 A2 A3 B1 B2 B3N S0 S0N Y0 Y1 Y2 Y3
*.PININFO A0:I A1:I A2:I A3:I B1:I B2:I B3N:I S0:I S0N:I Y0:O Y1:O Y2:O Y3:O
XI11 A2 A1 gnd! net61 B2 vdd! / MUX
XI10 A0 gnd! gnd! net60 S0 vdd! / MUX
XI9 net61 net60 gnd! Y3 net51 vdd! / MUX
XI8 net65 net66 gnd! Y0 net52 vdd! / MUX
XI7 gnd! A3 gnd! net66 S0 vdd! / MUX
XI6 A1 A2 gnd! net65 B2 vdd! / MUX
XI5 net63 net70 gnd! Y1 B1 vdd! / MUX
XI4 A0 A2 gnd! net70 S0 vdd! / MUX
XI3 A3 gnd! gnd! net63 net52 vdd! / MUX
XI2 A1 A3 gnd! net69 S0 vdd! / MUX
XI1 net62 net69 gnd! Y2 B1 vdd! / MUX
XI0 A0 gnd! gnd! net62 net51 vdd! / MUX
XI13 B3N S0 gnd! net52 vdd! / NAND
XI12 S0N B3N gnd! net51 vdd! / NAND
.ENDS

