************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: OUTPUT
* View Name:     schematic
* Netlisted on:  Mar  9 16:20:16 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    OUTPUT
* View Name:    schematic
************************************************************************

.SUBCKT OUTPUT O0 O1 O2 O3 S1 X0 X1 X2 X3 Y0 Y1 Y2 Y3
*.PININFO S1:I X0:I X1:I X2:I X3:I Y0:I Y1:I Y2:I Y3:I O0:O O1:O O2:O O3:O
XI3 X2 Y2 gnd! O2 S1 vdd! / MUX
XI2 X3 Y3 gnd! O3 S1 vdd! / MUX
XI1 X1 Y1 gnd! O1 S1 vdd! / MUX
XI0 X0 Y0 gnd! O0 S1 vdd! / MUX
.ENDS

