************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS392
* Top Cell Name: Booth_Encoder
* View Name:     schematic
* Netlisted on:  Jun  9 00:39:08 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: EECS392
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B Output
*.PININFO A:I B:I Output:O
MM2 Output A B vdd! PMOS_VTG W=300n L=50n m=1
MM1 Output B A vdd! PMOS_VTG W=300n L=50n m=1
MM0 net9 A vdd! vdd! PMOS_VTG W=300n L=50n m=1
MM5 Output net9 B gnd! NMOS_VTG W=280.0n L=50n m=1
MM4 Output B net9 gnd! NMOS_VTG W=280.0n L=50n m=1
MM3 net9 A gnd! gnd! NMOS_VTG W=280.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    Inverter
* View Name:    schematic
************************************************************************

.SUBCKT Inverter In Out
*.PININFO In:I Out:O
MM0 Out In vdd! vdd! PMOS_VTG W=1.96u L=50n m=1
MM1 Out In gnd! gnd! NMOS_VTG W=1.44u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B Output
*.PININFO A:I B:I Output:O
MM2 Output B vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM0 Output A vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B gnd! gnd! NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 gnd! NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B Output
*.PININFO A:I B:I Output:O
XI5 net8 Output / Inverter
XI4 A B net8 / NAND
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    Booth_Encoder
* View Name:    schematic
************************************************************************

.SUBCKT Booth_Encoder In<7> In<6> In<5> In<4> In<3> In<2> In<1> In<0> 
+ OutputA<7> OutputA<6> OutputA<5> OutputA<4> OutputA<3> OutputA<2> OutputA<1> 
+ OutputA<0> OutputB<7> OutputB<6> OutputB<5> OutputB<4> OutputB<3> OutputB<2> 
+ OutputB<1> OutputB<0>
*.PININFO In<7>:I In<6>:I In<5>:I In<4>:I In<3>:I In<2>:I In<1>:I In<0>:I 
*.PININFO OutputA<7>:O OutputA<6>:O OutputA<5>:O OutputA<4>:O OutputA<3>:O 
*.PININFO OutputA<2>:O OutputA<1>:O OutputA<0>:O OutputB<7>:O OutputB<6>:O 
*.PININFO OutputB<5>:O OutputB<4>:O OutputB<3>:O OutputB<2>:O OutputB<1>:O 
*.PININFO OutputB<0>:O
XI10 In<3> In<2> OutputA<3> / XOR
XI9 In<2> In<1> OutputA<2> / XOR
XI8 In<0> gnd! OutputA<0> / XOR
XI7 In<1> In<0> OutputA<1> / XOR
XI6 In<7> In<6> OutputA<7> / XOR
XI5 In<6> In<5> OutputA<6> / XOR
XI4 In<4> In<3> OutputA<4> / XOR
XI3 In<5> In<4> OutputA<5> / XOR
XI33 In<6> net45 / Inverter
XI30 In<5> net46 / Inverter
XI19 In<0> net51 / Inverter
XI18 In<1> net50 / Inverter
XI29 In<4> net47 / Inverter
XI26 In<3> net48 / Inverter
XI24 In<2> net49 / Inverter
XI41 In<6> net46 OutputB<6> / AND
XI40 In<7> net45 OutputB<7> / AND
XI36 In<2> net50 OutputB<2> / AND
XI35 In<1> net51 OutputB<1> / AND
XI34 In<0> vdd! OutputB<0> / AND
XI39 In<5> net47 OutputB<5> / AND
XI38 In<4> net48 OutputB<4> / AND
XI37 In<3> net49 OutputB<3> / AND
.ENDS

